US04616090
2-(4-Carboxymethoxy-2-hydroxyphenyl)imidazo(4,5-b)-pyridine.
2-(4-Carboxymethoxy-2-methoxyphenyl)imidazo(4,5-b)-pyridine, m.p. 235°, hydrochloride, m.p. 262°.

reactant | 2-(4-Carboxymethoxy-2-methoxyphenyl)imidazo(4,5-b)-pyridine | C(=O)(O)COC1=CC(=C(C=C1)C=1NC=2C(=NC=CC2)N1)OC | C15H13N3O4
reactant | hydrochloride | Cl | ClH
product | 2-(4-Carboxymethoxy-2-hydroxyphenyl)imidazo(4,5-b)-pyridine | C(=O)(O)COC1=CC(=C(C=C1)C=1NC=2C(=NC=CC2)N1)O | C14H11N3O4
